US04009208
The intermediate N-ethyl-1,7-heptanediamine was prepared in two steps as follows: To a stirred mixture kept in an ice bath and containing 7.2 g. of pyridine, 100 ml. of benzene and 9.2 g. of acetic anhydride was added dropwise over a period of a few minutes 10.0 g. of 7-aminoheptanonitrile. The ice bath was removed and the mixture was stirred at room temperature overnight. The reaction mixture was then evaporated to dryness and the residue taken up in a mixture of 60 ml. of water and 60 ml. of chloroform. The mixture was acidified with 6N hydrochloric acid and shaken well. The layers were separated and the aqueous layer was extracted with four 60 ml. portions of chloroform. The combined extracts were dried over anhydrous potassium carbonate and the solvent removed in vacuo to yield, as a viscous yellow liquid, 15.1 g. of 7-acetamidoheptanonitrile.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-aminoheptanonitrile | NCCCCCCC#N | C7H14N2
reactant | 7-acetamidoheptanonitrile | C(C)(=O)NCCCCCCC#N | C9H16N2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-ethyl-1,7-heptanediamine | C(C)NCCCCCCCN | C9H22N2
